US09388161B2
A solution of (S)-1-(5-hydroxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone (1.2 g, 5.85 mmol) in acetonitrile (24 mL) was cooled to 0° C. and treated with N-bromosuccinimide (1.041 g, 5.85 mmol) in one portion. The solution turned dark yellow-orange in color initially, then faded to a pale orange color over the next 10-15 min. After 30 min, the solution was concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (eluting with 8:1 dichloromethane-ethyl acetate followed by 7:1 dichloromethane-ethyl acetate) to afford (S)-1-(6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone (1.37 g, 82%). MS (ESI, pos. ion) m/z 284, 286 [M+1]+.

reactant | (S)-1-(5-hydroxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone | 5.85 mmol, 1.2 g | OC1=C2CC[C@@H](N(C2=CC=C1)C(C)=O)C | C12H15NO2
reactant | N-bromosuccinimide | 5.85 mmol, 1.041 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 24 mL | C(C)#N | C2H3N
product | (S)-1-(6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone | 1.37 g, 82% | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)O | C12H14BrNO2
